US07576215B2
([4-(3-HYDROXYPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE)
A solution of 3-benzoyl-8-(trifluoromethyl)quinolin-4-yl trifluoromethanesulfonate (1.6 g, 3.6 mmol), 3-hydroxyphenylboronic acid (0.60 g, 4.3 mmol), and K3PO4 (3.0 g) in dioxane (50 ml) was heated to reflux. After, 4 hr, the reaction was cooled, filtered, concentrated to give a solid which was triturated with 10% EtOAc/hexane to give a white solid (1.2 g Yield=86%); MS (ESI) m/z 394 ([M+H]+; 1H NMR (DMSO) δ 9.54 (s, 1H), 9.11 (s, 1H), 8.339 (d, 1h, J=7.0 Hz), 8.01(d, 1H, J=8.0 Hz), 7.83-7.79 (m, 1H), 7.64-7.61 (m, 2h), 7.55-7.51 (m, 1H), 7.39 (t, 2H, J=7.8 Hz), 7.13 (t, 1H, =7.8 Hz), 6.72-6.68 (m, 3H); Anal. Calcd for C23H14F3NO2: C, 70.23; H, 3.59; N, 3.56. Found: C, 69.67; H, 3.43; N, 3.51.

reactant | 3-benzoyl-8-(trifluoromethyl)quinolin-4-yl trifluoromethanesulfonate | 3.6 mmol, 1.6 g | FC(S(=O)(=O)OC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(C1=CC=CC=C1)=O)(F)F | C18H9F6NO4S
reactant | 3-hydroxyphenylboronic acid | 4.3 mmol, 0.60 g | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | K3PO4 | 3.0 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | [4-(3-HYDROXYPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE | Yield=86% | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
